US05683982
Mix magnesium turnings (45 mg, 1.85 mmol) and 1-chloro-2,2-dimethylpropane (74.6 mg, 0.7 mmol) in anhydrous ether (9 mL). Heat and stir vigorously, then add, by dropwise addition, 1,2-dibromoethane (156 mg, 0.839 mmol) in anhydrous ether (1.5 mL). Reflux for 12 hours, place under an argon atmosphere and cool to 0°-5° C. Add, by dropwise addition, a solution of isobutyryl chloride (0.533 mmol) in anhydrous diethyl ether (1.5 mL). Stir at 0°-5° C. for 1.5 hours, pour into a mixture of ice and concentrated hydrochloric acid (0.15 mL) and separate the organic phase. Wash with ethyl acetate, 5% aqueous sodium carbonate and brine. Dry (MgSO4) and evaporate the solvent in vacuo to give 2,2,6-trimethyl-4-heptanone.

reactant | magnesium | 1.85 mmol, 45 mg | [Mg] | Mg
reactant | 1-chloro-2,2-dimethylpropane | 0.7 mmol, 74.6 mg | ClCC(C)(C)C | C5H11Cl
reactant | 1,2-dibromoethane | 0.839 mmol, 156 mg | BrCCBr | C2H4Br2
reactant | isobutyryl chloride | 0.533 mmol | C(C(C)C)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | 0.15 mL | Cl | ClH
reactant | ether | 9 mL | CCOCC | C4H10O
reactant | ether | 1.5 mL | CCOCC | C4H10O
reactant | diethyl ether | 1.5 mL | C(C)OCC | C4H10O
product | 2,2,6-trimethyl-4-heptanone | CC(C)(CC(CC(C)C)=O)C | C10H20O
